US08912336B2
To a solution of 1-fluoro-4-nitrobenzene (1.0 equivalent) and (2-chlorophenyl)methanethiol (1.0 equivalent) in DMF (1.0 M) at rt was added K2CO3 (2.0 equivalents). After 16 h, the rxn was transferred to EtOAc:water (1:1). The organic layer was separated and sequentially washed with water (2×) and brine. The material was dried (MgSO4), filtered and concentrated to afford (2-chlorobenzyl)(4-nitrophenyl)sulfane in 98% yield. The material was taken through without further purification.

reactant | 1-fluoro-4-nitrobenzene | 1.0 equivalent | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | (2-chlorophenyl)methanethiol | 1.0 equivalent | ClC1=C(C=CC=C1)CS | C7H7ClS
reactant | K2CO3 | 2.0 equivalents | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc water | CCOC(=O)C.O
solvent | DMF | 1.0 M | CN(C)C=O | C3H7NO
product | (2-chlorobenzyl)(4-nitrophenyl)sulfane | 98% yield | ClC1=C(CSC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1 | C13H10ClNO2S
